US04490533
To 2-dimethylaminomethyl-6-methylaminopyridine (2.14 g, 0.013 mol) in dry benzene (35 ml) is added triethylamine (1.77 g, 0.0175 mol) and dimethylcarbamoyl chloride (1.72 g, 0.016 mol). The solution is stirred under nitrogen at reflux for 16 hours overnight. The mixture is cooled to room temperature and filtered. The filtrate is concentrated in vacuo and the residual oil is taken up in ether, filtered and again concentrated in vacuo. The residual oil is converted to the monohydrochloride salt with 6N ethanolic hydrochloric acid (1.7 ml, 0.0103 mol). The solid is recrystallized from ethanol-ether several times, affording 2.2 g of N,N,N'-trimethyl-N'-(6-dimethylaminomethyl-2-pyridyl)urea hydrochloride hemihydrate as a white solid, m.p. 154°-155° C.

reactant | 2-dimethylaminomethyl-6-methylaminopyridine | 0.013 mol, 2.14 g | CN(C)CC1=NC(=CC=C1)NC | C9H15N3
reactant | triethylamine | 0.0175 mol, 1.77 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 0.016 mol, 1.72 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | monohydrochloride | Cl | ClH
reactant | hydrochloric acid | 0.0103 mol, 6N, 1.7 ml | Cl | ClH
solvent | benzene | 35 ml | C1=CC=CC=C1 | C6H6
product | N,N,N'-trimethyl-N'-(6-dimethylaminomethyl-2-pyridyl)urea hydrochloride hemihydrate | 2.2 g | O.Cl.CN(C(=O)N(C1=NC(=CC=C1)CN(C)C)C)C.CN(C(=O)N(C)C1=NC(=CC=C1)CN(C)C)C.Cl | InChI=1S/2C12H20N4O.2ClH.H2O/c2*1-14(2)9-10-7-6-8-11(13-10)16(5)12(17)15(3)4;;;/h2*6-8H,9H2,1-5H3;2*1H;1H2
